US07625908B2
2-Hydroxy-N-{(2R)-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide
The procedure described in Example 3 was repeated using 2-(chloromethyl)pyridine and 2-hydroxy-N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]acetamide to give the title compound as a white solid in 29% yield; NMR spectrum (DMSO-d6) 1.40 (d, 3H), 2.27 (s, 3H), 3.43 (dt, 1H), 3.72 (dt, 1H), 3.80 (d, 2H), 4.94 (m, 1H), 5.20 (s, 2H), 5.46 (t, 1H), 7.00 (d, 1H), 7.21 (d, 1H), 7.30 (d, 1H), 7.34 (dd, 1H), 7.56 (m, 3H), 7.68 (t, 1H), 7.85 (td, 1H), 8.16 (t, 1H), 8.43 (s, 1H), 8.58 (d, 1H), 9.94 (s, 1H); Mass spectrum MH+ 474.

reactant | 2-(chloromethyl)pyridine | ClCC1=NC=CC=C1 | C6H6ClN
reactant | 2-hydroxy-N-[(2R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)propyl]acetamide | OCC(=O)NC[C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C20H22N4O4
product | 2-Hydroxy-N-{(2R)-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}acetamide | 29% yield | OCC(=O)NC[C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C | C26H27N5O4
